US04550103
To a suspension of 108.68 g (2.860 mole) lithium aluminum hydride in 800 ml tetrahydrofuran, is added a solution of 194.5 g (0.790 mole) of N-ethyl-5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxamide in 600 ml tetrahydrofuran dropwise under nitrogen. The reaction was then refluxed four hours. The reaction flask was cooled in an ice bath and 108 ml of water, 108 ml of 15% sodium hydroxide, and 324 ml of water were added. The precipitated solids were filtered and washed with hot ethanol. The combined filtrates were concentrated, then dissolved in dichloromethane, filtered, dried over magnesium sulfate, and the solvent evaporated under reduced pressure to give 151.9 g of N-ethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine as an oil.

reactant | lithium aluminum hydride | 2.860 mole, 108.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-ethyl-5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxamide | 0.790 mole, 194.5 g | C(C)NC(=O)C1CN(C(C1)=O)CC1=CC=CC=C1 | C14H18N2O2
reactant | water | 108 ml | O | H2O
reactant | sodium hydroxide | 108 ml | [OH-].[Na+]
reactant | water | 324 ml | O | H2O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | N-ethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 151.9 g | C(C)NCC1CN(CC1)CC1=CC=CC=C1 | C14H22N2
